US06897231B2
B. 4-({3-[3-(4-Fluorophenyl)(1H-indazol-5-yl)]-1H-1,2,4-triazol-5-yl}methyl)morpholine
A suspension of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (0.300 g, 0.94 mmol) in 4 mL of anhydrous ethanol was prepared and cooled to 0° C. An excess of a freshly prepared solution of sodium methoxide in methanol (1.41 mL, 2.0 M)) was added followed by 3 equivalents of N-amino-2-morpholin-4-ylacetamide (0.449 g, 2.82 mmol) as a solid. The reaction mixture was heated to reflux temperature in a sealed tube for 2 days. The reaction was then quenched with water, the pH adjusted to neutral and the crude product extracted with ethyl acetate. The components of the crude mixture were separated by preparative HPLC (title compound: 0.017 g, 5% yield): 1H NMR (CD3OD) δ 8.71 (d, 1H), 8.08-8.03 (m, 3H), 7.68 (d, 1H), 7.3 (t, 2H), 3.73 (m, 6H), 2.59 (m, 4H); ES-MS (m/z) 379 [M+H]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 0.94 mmol, 0.300 g | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | sodium methoxide | C[O-].[Na+]
reactant | N-amino-2-morpholin-4-ylacetamide | 2.82 mmol, 0.449 g, 3 equivalents | NNC(CN1CCOCC1)=O | C6H13N3O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | methanol | 2.0 M, 1.41 mL | CO | CH4O
product | 4-({3-[3-(4-Fluorophenyl)(1H-indazol-5-yl)]-1H-1,2,4-triazol-5-yl}methyl)morpholine | 5% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CN1CCOCC1 | C20H19FN6O
